US08106043B2
4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-amine:
A dark mixture of N,N-dimethyl-2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanamine (1.0 g, 3.74 mmol) in methanol (10 mL) under an argon atmosphere was treated with Raney Nickel (˜0.22 g, 3.74 mmol) and hydrazine hydrate (1.82 mL, 37.4 mmol). The reaction was transferred to a pre-heated oil bath at 65° C. After 50 minutes, the mixture was allowed to cool to room temperature and then poured over a pad of Celite. The Celite pad was rinsed with methanol (20 mL). The filtrate was concentrated, and the crude material was subjected to a short column on silica gel (1:9 (2M NH3 in MeOH):CH2Cl2). The resulting brown residue was carried on to the next step. 1H-NMR (DMSO-d6) δ 6.49 (d, J=9.0 Hz, 1H), 6.27-6.23 (m, 2H), 4.42 (brs, 2H), 3.40-3.30 (m, 2H), 3.18 (t, J=7.2 Hz, 2H), 2.98-2.94 (m, 2H), 2.36 (t, J=7.2 Hz, 2H), 2.16 (s, 6H); ESI-MS (m/z, %): 238 (MH+, 100), 193 (56), 147 (58).

reactant | N,N-dimethyl-2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanamine | 3.74 mmol, 1.0 g | CN(CCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-])C | C12H17N3O2S
reactant | hydrazine hydrate | 37.4 mmol, 1.82 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
catalyst | Raney Nickel | 3.74 mmol, ˜0.22 g | [Ni] | Ni
product | 4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-amine | CN(CCN1C2=C(SCC1)C=C(C=C2)N)C | C12H19N3S
